US08124629B2
Triphenylphosphine (5.98 g, 22.8 mmol), carbon tetrachloride (9 mL, 93 mmol), (4-benzenesulfonyl-phenyl)-methanol (2.83 g, 11.4 mmol) and tetrahydrofuran (42 mL) were combined and heated at 100° C. for 4 hours. The reaction mixture was cooled to room temperature, then partitioned between ethyl acetate (100 mL) and water (100 mL). The organic phase was dried over MgSO4, filtered, and concentrated to give the crude product as an oily solid. A solution of this crude product and dichloromethane was evaporated over silica gel, and the resulting silica gel supported crude product was loaded onto an Analogix SuperFlash™ column. Flash chromatography (15%-35% ethyl acetate in hexanes) afforded 3.09 g (100%) of 4-(benzenesulfonyl)benzyl chloride as a white, crystalline solid. 1H NMR (300 MHz, DMSO-d6) δ ppm 7.89-8.04 (m, 4 H), 7.53-7.75 (m, 5 H), 4.81 (s, 2 H).

reactant | Triphenylphosphine | 22.8 mmol, 5.98 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | 93 mmol, 9 mL | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | (4-benzenesulfonyl-phenyl)-methanol | 11.4 mmol, 2.83 g | C1(=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)CO | C13H12O3S
solvent | tetrahydrofuran | 42 mL | O1CCCC1 | C4H8O
product | 4-(benzenesulfonyl)benzyl chloride | 3.09 g, 100% | C1(=CC=CC=C1)S(=O)(=O)C1=CC=C(CCl)C=C1 | C13H11ClO2S
